Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of HTN, 
hypothyroidism, anemia, CKD, recent mechanical fall with left 
hip fracture s/p ORIF (___) on enoxaparin presenting from rehab 
with anemia noted on routine lab work.

The patient reports that she was in her usual state of health 
until about 10 days prior to admission when she was getting out 
of bed and her cane slipped, she lost her balance, and she fell 
and broke her hip. She denies any antecedent symptoms to her 
fall. She presented to ___, where she 
underwent operative repair of her left hip fracture on ___. Of 
note, on the day prior to her surgery on ___, he Hb was 7.5 and 
she was transfused 1 unit pRBCS; anemia was attributed to blood 
buildup at site of trochanteric fracture. The patient's Hb on 
___ was 7.1, and she was transfused another 1 unit pRBCs. Her 
Hb on day of discharge to rehab was 8.4. Her discharge summary 
notes that this value is at the patient's baseline. Last value 
in our system from ___ was Hb ___.

Of additional note, a TSH was checked during her hospital course 
and was 125 and her levothyroxine was uptitrated from 75 to 100 
mcg. 

Further, NCHCT on admission was notable for round radiopaque 
density in the right orbit. Ophthalmology was consulted and 
thought this was due to unmanaged glaucoma and the patient was 
initiated on brimonidine gtts TID with plan for ophthalmology 
follow up. However, it appears that these eye gtts were not on 
her discharge medication list and were not continued at rehab. 
The patient reports chronic loss of vision in the right eye.

On admission, her Cr was 1.65, and was 1.1 on discharge. In our 
system, last values 1.3-1.5 in ___.

Regarding her hip fracture, the patient was discharged on 
enoxaparin 30 mg BID for DVT prophylaxis for 30 days. She is 
weight bearing as tolerated. She was started on calcium and 
vitamin D for presumed osteoporosis; she was also planned to 
start on alendronate 2 weeks after her surgery (start day: 
___. However, it appears that the patient has already been 
receiving alendronate while at rehab.

At rehab, routine lab work was obtained an notable for Hb 5.9 on 
___, so the patient was referred to the ED for further 
evaluation. The patient reports mild left hip pain. She states 
that it is overall improved from when she was discharged from 
the hospital but she has been more sore since starting physical 
therapy. She reports feeling lightheaded with physical therapy. 
She denies any chest pain, palpitations, or shortness of breath. 
No abdominal pain, nausea, vomiting, diarrhea, or constipation. 
No hematemesis, melena, or hematochezia. 

In the ED, vitals: 97.9 80 115/58 16 95% RA Exam notable for: 
Per verbal discussion with ED, left hip suture site c/d/I, soft, 
no swelling or bruising Labs notable for: Hb 5.9, K 3.4, BUN/Cr 
___ Imaging: None Patient given: Tylenol 1 gm, oxycodone 2.5 
mg

On arrival to the floor, the patient reports that she is 
comfortable and has no acute complaints.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
- Left hip fracture s/p ORIF (___)
- Hypertension
- Hypothyroidism
- CKD
- Anemia
- Glaucoma (suspected)
 
Social History:
___
Family History:
- Mother: HTN
- Sister: ___
 
Physical ___:
ADMISSION EXAM
VITALS: 97.7 150/78 62 18 100 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, eyes cloudy
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; left hip with mild
bruising surrounding upper sutures, hip soft and nontender
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: 98.0 PO 121 / 73 R Lying 47 18 95 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; left hip with hematoma, 
a
bit warm compared to right, staples noted above the left knee 
and
at hip
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:20PM BLOOD WBC-5.9 RBC-2.00* Hgb-5.9* Hct-19.3* 
MCV-97 MCH-29.5 MCHC-30.6* RDW-20.6* RDWSD-64.2* Plt ___
___ 05:20PM BLOOD Neuts-67.3 ___ Monos-7.7 Eos-0.0* 
Baso-0.2 NRBC-1.0* Im ___ AbsNeut-4.00 AbsLymp-1.36 
AbsMono-0.46 AbsEos-0.00* AbsBaso-0.01
___ 05:20PM BLOOD Ret Aut-4.1* Abs Ret-0.08
___ 05:20PM BLOOD Glucose-111* UreaN-14 Creat-1.4* Na-138 
K-3.4* Cl-104 HCO3-23 AnGap-11
___ 05:20PM BLOOD Iron-108
___ 05:20PM BLOOD calTIBC-224* Ferritn-162* TRF-172*

INTERIM:
========
___ 05:05AM BLOOD Albumin-2.8* Calcium-8.0* Phos-3.0 Mg-2.0
___ 05:05   METHYLMALONIC ACID Results Pending 
___ 05:05AM BLOOD VitB12-298

DISCHARGE:
==========
___ 05:00AM BLOOD WBC-5.0 RBC-3.00* Hgb-9.1* Hct-28.7* 
MCV-96 MCH-30.3 MCHC-31.7* RDW-19.2* RDWSD-58.4* Plt ___
___ 05:00AM BLOOD Glucose-84 UreaN-10 Creat-1.0 Na-140 
K-3.9 Cl-105 HCO3-24 AnGap-11
___ 05:00AM BLOOD Calcium-8.4 Phos-2.2* Mg-2.0

IMAGING:
========
1. 8 x 11 cm soft tissue hematoma lateral to the left gluteus 
maximus, with associated surrounding soft tissue edema and 
possible intramuscular extension. 
2. Status post ORIF of a comminuted left intertrochanteric 
femoral fracture with residual mild displacement of the lesser 
trochanter and 
impaction/foreshortening. 
3. Extensive atherosclerotic disease. 
 
Brief Hospital Course:
Ms. ___ is a ___ woman with history of HTN, 
hypothyroidism, anemia, CKD, recent mechanical fall with left 
hip fracture s/p ORIF (___) on enoxaparin presenting from rehab 
with anemia noted on routine lab work.

ACUTE/ACTIVE PROBLEMS:
# Acute on chronic anemia: 
# Hemorrhage into surgical site:
# L hip hematoma
Patient with last known baseline Hb ___. Recent 
hospitalization at ___ for hip fracture s/p 
ORIF complicated by acute blood loss anemia presumed into 
surgical site, requiring 2 units pRBCs, Hb 8.4 on discharge. She 
returned from rehab with Hb 5.9 in setting of enoxaparin use. 
Guaiac positive in the ED, but without melena or hematochezia, 
no e/o GIB during hospitalization. Hb overall stable after 2 
more units pRBC. CT of the left hip showed 8 x 11 cm hematoma 
with possible extension into muscle, edema. Discussed with 
ortho, who felt this is not worrisome given her age and type of 
surgery. Enoxaparin was stopped (___ orthopedist notified about 
this). SCDs placed. Continued iron supplement. B12 level was 
borderline. Started high dose oral supplement and sent MMA, 
which was pending on discharge.

# Left intertrochanteric femur fracture s/p ORIF (___):
# Osteoporosis: 
Patient with recent mechanical fall (while reaching for her 
cane, no syncope) resulting in hip fracture s/p repair. 
Contacted orthopedist in ___ and confirmed followup. 
She will retain staples until then. Her pain was reasonably well 
controlled at rest but she reported increased pain with 
movement, started standing APAP and PRN oxycodone low dose, 
consider giving prior to working with ___ initially. Alendronate 
was recommended starting ___, but was reportedly being given 
at rehab. Please hold until ___. Calcium/vitamin D continued.

# Glaucoma?: 
During recent admission to outside hospital, patient noted to 
have opacity in right eye, seen by ophthalmology and thought to 
represent poorly-controlled glaucoma. Initiated on brimonidine 
eye drops. Followup at ___ arranged.

# ___ on CKD:
Reportedly has CKD. Cr improved to 1.0 by discharge, was 1.4 on 
admission, higher at OSH (1.6-1.7).

# Housing/Home safety
Patient has been living alone in ___ since selling her ___ but 
it's unclear that she has been well on her own and may have some 
mild cognitive impairment. All of her family is in ___. They 
are working on getting her housing but ___ has a very 
long wait list. In the meantime, one of her daughters is trying 
to get a 2 bedroom apartment so her mother can stay with them. 
They do not want her living alone anymore, care team supported 
this decision. Would like to transfer care to ___ as they said 
her PCP at ___ has been unresponsive for months. Outpatient 
Geriatrics appointment was scheduled.

# Code Status/GOC
Upon review of documentation from ___, DNR was noted, 
but at ___ patient elected to be full code. Inpatient team 
discussed with patient, ___. Patient 
seems like she wants to be full code in situation where she 
could potentially recover fully and maintain her independence. 
She's not sure what she would want if there was a low chance she 
would recover fully. Daughter says she has signed legal 
paperwork prior to admission stating DNR but she will honor 
whatever her mother wishes. This should be further readdressed.

CHRONIC/STABLE PROBLEMS:
# Hypertension: Held amlodipine given normotension; monitor and 
resume if indicated.

# Hypothyroidism:
On recent admission had TSH 125. Levothyroxine was started. Will 
need repeat TFTs in ___ weeks and dose adjustment.

TRANSITIONAL ISSUES:
=====================
[] please check ___ ___
[] followup MMA to guide further B12 supplementation 
[] recheck iron studies in ___ weeks and discontinue iron if 
adequate stores
[] enoxaparin ppx held; ensure SCDs, TEDs, or other mechanical 
ppx at rehab
[] further conversation regarding end of life wishes 
[] followup housing situation
[] start alendronate on ___
[] held amlodipine, monitor BP and resume if indicated
[] repeat TFTs in ___ weeks and dose adjustment of Levothyroxine 

[] extensive atherosclerosis noted on CT scan; would discuss if 
initiation of statin indicated 

>30 minutes spent discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
2. Alendronate Sodium 10 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
5. Calcium Carbonate 500 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
9. Levothyroxine Sodium 100 mcg PO DAILY 
10. Enoxaparin Sodium 30 mg SC BID 
Start: ___, First Dose: Next Routine Administration Time 
11. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Third 
Line 
12. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
13. Senna 17.2 mg PO QHS 
14. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 

 
Discharge Medications:
1.  Cyanocobalamin ___ mcg PO DAILY  
2.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*6 Tablet Refills:*0 
3.  Acetaminophen 1000 mg PO Q8H  
4.  Senna 17.2 mg PO QHS:PRN Constipation - First Line  
5.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H  
7.  Calcium Carbonate 500 mg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
10.  Levothyroxine Sodium 100 mcg PO DAILY  
11.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Third 
Line  
12.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
13.  Vitamin D ___ UNIT PO DAILY  
14. HELD- Alendronate Sodium 10 mg PO DAILY  This medication was 
held. Do not restart Alendronate Sodium until ___, then 
you can start it
15. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until the rehab doctors think ___ need it

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute blood loss anemia
left hip hematoma 
___ on CKD

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
You came to the hospital because your blood count was low. It 
improved after getting blood. You had bleeding into your hip 
after your surgery. This can happen sometimes. It was likely 
made worse by the lovenox given to you to help prevent blood 
clots. You are no longer taking that medicine, so it is very 
important to keep intermittent compression on your legs and move 
as much as you can at rehab.

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___